US09056843B2
Reduction was carried out according to Chem. Eur. J. (2008), 14(17), 51116-5119. To an ice-cooled lithium aluminum hydride (in Et2O) (21.35 mL, 21.35 mmol) solution was added drop wise a solution of ((R)-1-dimethylcarbamoyl-ethyl)-carbamic acid tert-butyl ester (1.7105 g, 7.12 mmol) in Et2O (2-3 mL). The reaction mixture was stirred at 0° C. until disappearance of the starting material. The reaction mixture was carefully quenched by sequential addition of water (1.2 mL), 15% (w/w) NaOH (1.2 mL) and water (3.6 mL). Then EtOAc was added and the solids were filtered and washed with EtOAc. The filtrated was dried over MgSO4, filtered and evaporated off. Then the crude was dissolved in DCM, filtered and evaporated off to give 1.4543 g, 6.47 mmol, 91% yield ((R)-2-Dimethylamino-1-methyl-ethyl)-carbamic acid tert-butyl ester as yellowish oil. The crude was used without any further purification and characterization.

reactant | lithium aluminum hydride | 21.35 mmol, 21.35 mL | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | ((R)-1-dimethylcarbamoyl-ethyl)-carbamic acid tert-butyl ester | 7.12 mmol, 1.7105 g | C(C)(C)(C)OC(N[C@H](C)C(N(C)C)=O)=O | C10H20N2O3
solvent | Et2O | 2-3 mL | CCOCC | C4H10O
product | ((R)-2-Dimethylamino-1-methyl-ethyl)-carbamic acid tert-butyl ester | 6.47 mmol, 1.4543 g, 91% yield | C(C)(C)(C)OC(N[C@@H](CN(C)C)C)=O | C10H22N2O2
